US07829721B2
a) Ethyl (2-bromo-5-nitrophenyl)acetate
A mixture composed of 5.21 g (20 mmol) of (2-bromo-5-nitrophenyl)acetic acid (Zhumal Organicheskoi Khimii (1974) 10, 92-5), 80 ml of absolute ethanol and 0.1 ml of concentrated sulfuric acid is refluxed for 6 hours. After cooling, the reaction medium is concentrated under vacuum and taken up in ether. This organic phase is washed with saturated NaHCO3 solution and then with water, after which it is dried over Na2SO4. After concentrating under vacuum, 5.54 g of a beige solid are obtained.

reactant | (2-bromo-5-nitrophenyl)acetic acid | 20 mmol, 5.21 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])CC(=O)O | C8H6BrNO4
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | Ethyl (2-bromo-5-nitrophenyl)acetate | BrC1=C(C=C(C=C1)[N+](=O)[O-])CC(=O)OCC | C10H10BrNO4
